Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
IV Dye, Iodine Containing Contrast Media / Oxycodone / 
cilostazol / Varenicline
 
Attending: ___.
 
Chief Complaint:
Nonexertional Chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ year old female with PMHx CAD, PVD and COPD 
presenting with chest pain. She reports that she woke up at 3 am 
with substernal pressure like pain which was associated with 
shortness of breath. She rated the pain a ___ and reports that 
it lasted for about 5 minutes and resolved spontaneously. She 
had several more episodes of the same pain lasting about 5 
minutes at a time throughout the morning but which were much 
less severe. She hasn't had an episode of pain since 1 pm. She 
denies palpitations, lightheadedness, dizziness, nausea, 
vomiting, diaphoresis.  
In the ED, initial vitals were: 98.0 50 156/73 20 99%  
- Labs were significant for:  
- Na 137 K 3.0 Cl 94 CO2 32 BUN 16 Cr 0.8  
- Ca: 10.6 Mg: 1.9 P: 2.9  
- WBC 5.9 Hgb 13.6 Hct 41.1 Plt 238  
- ___: 10.7 PTT: 28.7 INR: 1.0  
- Lactate:2.0  
- Trop-T: <0.01  
- Imaging revealed:  
- CXR: No acute cardiopulmonary process  
- The patient was given: PO Aspirin 243, IH Albuterol 0.083% 
Neb, IH Ipratropium Bromide Neb, PO Potassium Chloride 40 mEq, 
40 mEq Potassium Chloride / 1000 mL NS  
- Vitals prior to transfer were: 98.1 84 163/118 17 100% RA  
Upon arrival to the floor, patient denies chest pain, shortness 
of breath, palpitations, lightheadedness, dizziness.  
REVIEW OF SYSTEMS:  
(+) Per HPI  

 
Past Medical History:
ASTHMA/COPD/Tobacco use, Peripheral Arterial disease s/p recent 
common iliac stenting, ATRIAL TACHYCARDIA, ATYPICAL CHEST PAIN, 
CERVICAL RADICULITIS, CERVICAL SPONDYLOSIS, CORONARY ARTERY 
DISEASE  
HEADACHE, HIP REPLACEMENT, HYPERLIPIDEMIA, HYPERTENSION, 
OSTEOARTHRITIS, HERPES ZOSTER, TOBACCO ABUSE, ATRIAL 
FIBRILLATION  
ANXIETY,GASTROINTESTINAL BLEEDING, OSTEOARTHRITIS, 
ATHEROSCLEROTIC CARDIOVASCULAR DISEASE, PERIPHERAL VASCULAR 
DISEASE, CATARACT SURGERY ___  
Surgery:  
BILATERAL COMMON ILIAC ARTERY STENTING ___  
BUNIONECTOMY  
HIP REPLACEMENT  
PRIOR CESAREAN SECTION  
GANGLION CYST
 
Social History:
___
Family History:
Mother: ___, HTN  
Father: ___ CA  
Brother: CA?  
Brother: ___ 
 
Physical ___:
Admission PE:
Vitals: 98.4 159/66 91 16 93% RA   Wt: 66.2
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, ___ systolic murmur 
heard best at RUSB, no rubs or gallops  
Lungs: inspiratory and expiratory wheezes, no rales or rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema

Discharge PE:
Vitals: 98.5 ___ 20 ___ 98%RA 
Weight: 64.5
Weight on admission: 66.2
General: NAD 
HEENT: Sclera anicteric 
Neck: JVP not elevated  
CV: Regular rhythm with frequent skipped beats, normal S1 + S2, 
___ systolic murmur heard best at RUSB, no rubs or gallops  
Lungs: mild expiratory wheezes, diffuse mild rhonchi 
(pre-nebulizer) 
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding   
Ext: Warm, well perfused, no edema 

 
Pertinent Results:
Admission Labs: 

___ 07:49PM   ___ PTT-28.7 ___
___ 07:05PM   LACTATE-2.0
___ 05:58PM   GLUCOSE-103* UREA N-16 CREAT-0.8 SODIUM-137 
POTASSIUM-3.0* CHLORIDE-94* TOTAL CO2-32 ANION GAP-14
___ 05:58PM   estGFR-Using this
___ 05:58PM   cTropnT-<0.01
___ 05:58PM   CALCIUM-10.6* PHOSPHATE-2.9 MAGNESIUM-1.9
___ 05:58PM   WBC-5.9 RBC-4.62 HGB-13.6 HCT-41.1 MCV-89 
MCH-29.4 MCHC-33.1 RDW-14.7 RDWSD-47.1*
___ 05:58PM   NEUTS-57.8 ___ MONOS-9.3 EOS-0.3* 
BASOS-0.2 IM ___ AbsNeut-3.41 AbsLymp-1.88 AbsMono-0.55 
AbsEos-0.02* AbsBaso-0.01
___ 05:58PM   PLT COUNT-238

Discharge Labs:

___ 06:20AM BLOOD WBC-6.1 RBC-4.60 Hgb-13.4 Hct-41.2 MCV-90 
MCH-29.1 MCHC-32.5 RDW-14.9 RDWSD-47.8* Plt ___
___ 06:20AM BLOOD Plt ___
___ 06:20AM BLOOD Glucose-97 UreaN-17 Creat-1.0 Na-134 
K-4.2 Cl-96 HCO3-24 AnGap-18
___ 06:25AM BLOOD ALT-19 AST-22 LD(LDH)-260* AlkPhos-81 
TotBili-0.4
___ 06:20AM BLOOD Calcium-9.7 Phos-3.7 Mg-1.9

Studies:
1. CXR ___: No acute cardiopulmonary process  
2. ___: Exercise stress test  
INTERPRETATION: This ___ year old woman with a history of PAD and 
 
LBBB was referred to the lab from the ER following negative 
serial  
cardiac markers for evaluation of chest discomfort. The patient 
was  
referred for a dipyridamole stress test but due to her 
theophylline  
therapy we were not able to proceed. Due to her frequent atrial 
ectopy we chose not to give her dobutamine but had her walk on 
the treadmill instead. She exercised for 3 minutes of a modified 
___ protocol and stopped due to leg claudication. The 
estimated peak MET capacity was 2.5 which represents a poor 
functional capacity for her age. No arm, neck, back or chest 
discomfort was reported by the patient throughout the study. The 
ST segments are uninterpretable for ischemia in the setting of 
the baseline LBBB. The rhythm was sinus with frequent isolated 
apbs, occasional atrial couplets and a 6 beat run of PSVT. Rare 
isolated vpbs were also noted. Resting mild systolic 
hypertension with a pprorpriate increase in BP with exercise and 
recovery.  
IMPRESSION: No anginal type symptoms or interpretable ST 
segments at a high cardiac demand and poor functional capacity. 
Nuclear report sent separately.  
3. ___ CATH:  
LMCA: short, no CAD. LAD: mild  
focal origin disease (20%) and mild proximal disease (30%). LCX: 
 
minimal luminal irregularities. RCA: 30%.  
4. ECG ___: sinus rhythm with multiple PACs, left axis 
deviation, old LBBB 
5. ECG ___: Likely atrial tachycardia. Left bundle-branch 
block. Compared to the previous tracing atrial tachycardia has 
replaced sinus rhythm with premature atrial contractions. Left 
bundle-branch block was previously noted. 
6. ECHO ___: Conclusions  
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). There 
is considerable beat-to-beat variability of the left ventricular 
ejection fraction due to an irregular rhythm/premature beats. 
Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets are 
mildly thickened (?#). There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Physiologic 
mitral regurgitation is seen (within normal limits). The left 
ventricular inflow pattern suggests impaired relaxation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 
Compared with the prior study (images reviewed) of ___, 
frequent atrial ectopy is seen; biventricular function appears 
similar.   

Micro: ___: Bcx pending
 
Brief Hospital Course:
Brief Hospital Course
===========================================================
___ PMH of CAD, PVD, and COPD presenting with recurrent 
non-exertional substernal chest pain. The patient has a history 
of mild CAD but labs were significant for negative troponins and 
EKG was without ischemic changes. During her admission, she also 
developed multiple episodes of atrial tachycardia (AFib vs. 
Aflutter) and was started on Amiodarone for rate/rhythm control 
and Rivaroxaban for anticoagulation, and kept on home dose of 
Diltiazem also for rate control. She did not have any episodes 
of chest pain during hospitalization, so was discharged once 
atrial fibrillation/flutter was controlled. She will need to 
follow up with her primary care doctor regarding vague chest 
pain which led to admission.

Acute Issues:
========================================================
#Atrial Tachycardia: During admission pt had runs of wide 
complex tachyarrythmia, thought likely supraventricular in 
origin: rapid Atrial Fibrillation/ Flutter vs. atrial 
tachycardia, with abberancy (complexes with similar morphology 
to native LBBB). She was treated with Diltiazem and Amiodarone 
and had fewer episodes of tachycardia. EP team evaluated patient 
and recommended anticoagulation and outpatient follow up to 
consider EP study and possible ablation of Atrial Flutter. 
Patient was discharged with ___ of Hearts monitor, Amiodarone 
200mg twice daily x 1 week followed by 200 mg daily thereafter. 
Diltiazem continued at home dose. Rivaroxaban added for 
anticoagulation. As per outpatient cardiologist (Dr. ___, 
plavix was discontinued in light of addition of Rivaroxaban and 
interest in avoiding triple therapy in this patient. Pt was 
given follow up appointments with Drs. ___. She was 
scheduled to see Dr. ___ EP evaluation in 2 months.

#Chest pain: Pt presented with substernal chest pain that 
occurred at rest and was ruled out for MI with no troponin 
elevation or significant new ECG changes. Likely her chest pain 
was related to periods of tachycardia, although while in the 
hospital the runs of atrial tachycardia did not reproduce chest 
pain. She did not have any episodes of chest pain during 
hospitalization, so was discharged once atrial 
fibrillation/flutter was controlled. She will need to follow up 
with her primary care doctor regarding vague chest pain which 
led to admission.

#Dry eyes: pt had erythema and pain of R eye, found to have dry 
eyes per optholmology. Sent out with Artificial tears and 
erythromycin eye drops. Patient had follow up appointment 
already scheduled with optholmology and was instructed to attend 
appointment.

Chronic Issues:
=============================================================
# COPD  Pt appeared to be at baseline respiratory status. She 
was sent home with her home albuterol neb, albuterol inhaler, 
Fluticasone nasal spray, fluticasone-salmeterol diskus, 
tiotropium bromide nebs, and theophylline

# PAD: 
As above, we stopped Clopidogrel as patient is now on 
Rivaroxaban and wanted to avoid triple therapy as per her 
cardiologist Dr. ___.

Transitional Issues:
==============================================================
1. Patient was discharged on Amiodarone 200 mg po twice daily 
for one week until ___ and then 200mg po daily thereafter 
until her EP appointment with Dr. ___ in approximately 2 months.
2. Pt was discharged on Rivaroxaban 20 mg qpm with dinner
3. Pt discharged with outpatient ___ of Hearts monitor with 
results to be interpreted by Cardiologist.
4. She presented with chest pain but did not have elevated 
biomarkers or EKG changes concerning for myocardial damage. 
Moreover, pt remained asymptomatic during periods of 
supraventricular tachycardia while she was hospitalized. Patient 
may benefit from outpatient stress test if such symptoms return.
5. On day of discharge, pt had significant R eye pain and 
redness, was evaluated by Optholmology, who felt that it was 
just dry eyes, treated with erythromycin drops and artifiical 
tears. Patient already has appt w/ Opthamology in 5 days which 
she will need to attend.

Full Code
Contact: CONTACT: ___ (husband) ___ ___ 
(daughter) ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q4H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Clopidogrel 75 mg PO DAILY 
6. Diltiazem Extended-Release 180 mg PO DAILY 
7. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN nasal 
congestion 
8. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
9. Hydrochlorothiazide 50 mg PO DAILY 
10. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE HS 
12. Lorazepam 0.5 mg PO QHS:PRN insomnia 
13. Multivitamins W/minerals 1 TAB PO DAILY 
14. Ranitidine 150 mg PO BID 
15. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
16. Theophylline ER 300 mg PO BID 
17. Tiotropium Bromide 1 CAP IH DAILY 
18. Guaifenesin-CODEINE Phosphate 5 mL PO Q6H:PRN cough 
19. cod liver oil 1,250-135 unit oral BID 
20. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
315/200 mg oral daily 

 
Discharge Medications:
1. Amiodarone 200 mg PO BID 
RX *amiodarone 200 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*1
2. Rivaroxaban 20 mg PO DINNER 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth qpm Disp 
#*30 Tablet Refills:*1
3. Acetaminophen 325 mg PO Q4H:PRN pain 
4. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
5. Aspirin 81 mg PO DAILY 
6. Atorvastatin 10 mg PO QPM 
7. Diltiazem Extended-Release 180 mg PO DAILY 
8. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN nasal 
congestion 
9. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
10. Guaifenesin-CODEINE Phosphate 5 mL PO Q6H:PRN cough 
11. Hydrochlorothiazide 50 mg PO DAILY 
12. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
13. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE HS 
14. Lorazepam 0.5 mg PO QHS:PRN insomnia 
15. Multivitamins W/minerals 1 TAB PO DAILY 
16. Ranitidine 150 mg PO BID 
17. Theophylline ER 300 mg PO BID 
18. Tiotropium Bromide 1 CAP IH DAILY 
19. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
20. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN eye 
irritation 
RX *dextran 70-hypromellose [Artificial Tears]  1 drop OPTH 
QID:prn Refills:*0
RX *dextran 70-hypromellose [Artificial Tears (PF)]  ___ drops 
eye as needed Disp #*1 Package Refills:*1
21. Erythromycin 0.5% Ophth Oint 0.5 in RIGHT EYE TID 
RX *erythromycin 5 mg/gram (0.5 %) 0.5 (One half) inch OPTH 
TID:prn Refills:*0
22. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
315/200 mg oral daily 
23. cod liver oil 1,250-135 unit oral BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rapid Atrial Fibrillation/Flutter
COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ due to concerning chest pain symptoms 
which we think are due to infrequent bursts of a rapid heart 
rate. Since the rapid rate makes you at increased risk for 
stroke, you were started on a blood thinning medication called 
Rivaroxaban which you will need to take every day. Our 
specialized cardiologists who deal specifically with the 
electrical rhythm of the heart evaluated you and felt that you 
would benefit from a medication called amiodarone which was also 
started. You will need to follow up with them in their clinic 
regarding this abnormal rhythm. In the meantime, you were 
outfitted with a Holter monitor to record your heart rate at 
home. It is very important that you follow up with Dr. ___ 
your cardiologist.

We wish you all the best,

Sincerely,
Your care team at ___
 
Followup Instructions:
___